US05530130
Benz[4,5]isoquino[2,1-α]perimidin-14-one (Solvent Red 179)
250 g of phenol are melted at about 60° C. 47.4 g of 1,8-diaminonaphthalene and 59.4 g of 1,8-naphthalic acid anhydride are introduced, while passing over nitrogen, and the mixture is heated to 150° C. in the course of 1 hour and kept at this temperature for 2 hours. The reaction mixture is cooled to 80° C., 120 ml of methanol are added at a temperature of 80° to 65° C. in the course of 30 minutes, and the mixture is cooled to room temperature and filtered with suction. After the residue has been washed with 240 ml of methanol and dried at 150° C., 88.8 g of the stated dyestuff are obtained in a very good quality.

reactant | phenol | 250 g | C1(=CC=CC=C1)O | C6H6O
reactant | 1,8-diaminonaphthalene | 47.4 g | NC1=CC=CC2=CC=CC(=C12)N | C10H10N2
reactant | 1,8-naphthalic acid anhydride | 59.4 g | C1=CC2=C3C(=C1)C(=O)OC(=O)C3=CC=C2 | C12H6O3
solvent | methanol | 120 ml | CO | CH4O
product | Benz[4,5]isoquino[2,1-α]perimidin-14-one | C1=CC=C2C=CC=C3N=C4N(C1=C32)C(C=3C=2C(=CC=CC24)C=CC3)=O | C22H12N2O
